US08541594B2
To a solution of (2-bromothiazol-5-yl)methanol (4.85 g, 25 mmol) and 4-chloro-bicyclo[3.2.1]oct-3-en-2-one (3.92 g, 25 mmol) in anhydrous tetrahydrofuran (100 ml) is added, in small portions, sodium hydride (60% dispersion in oil, 1.00 g, 25 mmol) at 0° C. The reaction mixture is stirred overnight and allowed to warm to room temperature. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 4-(2-bromothiazol-5-ylmethoxy)bicyclo[3.2.1]oct-3-en-2-one (6.43 g)

reactant | (2-bromothiazol-5-yl)methanol | 25 mmol, 4.85 g | BrC=1SC(=CN1)CO | C4H4BrNOS
reactant | 4-chloro-bicyclo[3.2.1]oct-3-en-2-one | 25 mmol, 3.92 g | ClC1=CC(C2CCC1C2)=O | C8H9ClO
reactant | sodium hydride | 25 mmol, 1.00 g | [H-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(2-bromothiazol-5-ylmethoxy)bicyclo[3.2.1]oct-3-en-2-one | 6.43 g | BrC=1SC(=CN1)COC1=CC(C2CCC1C2)=O | C12H12BrNO2S
